US08871767B2
N-(5-(6-(2-fluorophenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylpyridin-3-yl)pivalamide
To a solution of 6-(2-fluorophenyl)-2-(6-methyl-5-nitropyridin-3-yl)imidazo[1,2-b]pyridazine (0.016 g, 0.0458 mmol) in ethanol (3 mL) and water (1 mL) containing AcOH (0.274 mmol) is added iron (0.013 g, 0.229 mmol). The mixture is heated at 80° C. for 2 hours. The mixture is concentrated under reduced pressure and sat. aqueous NaHCO3 (10 mL) is added. The mixture is extracted with EtOAc (20 mL). Organic layer is collected and concentrated to dryness. Crude amine is taken up in acetonitrile (3 mL) containing pyridine (0.137 mmol). To this solution is added trimethylacetylchloride (0.0503 mmol). The mixture is stirred at room temperature for 4 hours, concentrated to dryness and then purified via silica chromatography using a gradient CH2Cl2 to CH2Cl2:EtOAc:methanol (1:1:0.1) to afford the title compound (0.008 g, 44%) as a light yellow solid: Rf 0.34 (1:1:0.1 CH2Cl2:EtOAc:methanol); LCMS (m/z)=404.4 [M+H]+, tR=2.11 min. (compound same as Example 390)

reactant | 6-(2-fluorophenyl)-2-(6-methyl-5-nitropyridin-3-yl)imidazo[1,2-b]pyridazine | 0.0458 mmol, 0.016 g | FC1=C(C=CC=C1)C=1C=CC=2N(N1)C=C(N2)C=2C=NC(=C(C2)[N+](=O)[O-])C | C18H12FN5O2
reactant | AcOH | 0.274 mmol | CC(=O)O | C2H4O2
reactant | pyridine | 0.137 mmol | N1=CC=CC=C1 | C5H5N
reactant | trimethylacetylchloride | 0.0503 mmol | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | iron | 0.229 mmol, 0.013 g | [Fe] | Fe
product | N-(5-(6-(2-fluorophenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylpyridin-3-yl)pivalamide | 0.008 g, 44% | FC1=C(C=CC=C1)C=1C=CC=2N(N1)C=C(N2)C=2C=C(C(=NC2)C)NC(C(C)(C)C)=O | C23H22FN5O
